US08044213B2
A mixture of 0.9023 g (1.87 mmole) of 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide, 34 mL of acetonitrile and 17 mL of 1M hydrochloric acid was heated at 60 degrees for 2 hours. The cooled mixture was diluted with 50 mL of water. The resulting precipitate was collected by filtration, washed with water and dried to give 0.5766 g of 2-(5-formyl-2-nitro-phenylamino)-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.47b) as an orange-red solid.

reactant | 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 1.87 mmole, 0.9023 g | COC(C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-])OC | C20H17F3N4O5S
reactant | acetonitrile | 34 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | 1M, 17 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-(5-formyl-2-nitro-phenylamino)-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.5766 g | C(=O)C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C18H11F3N4O4S
